US05447915
Dimethylaminopropylethylcarbodiimide (EDC) (1.68 E, 8.78mmol) was added to a solution of the crude N-Boc-D-Phe (as described previously, assumed to be 7.32 mmol), benzyl alcohol (1.14 ml, 11.0 mmol) and 4-pyrrollidinopyridine (217 mg, 1.46 mmol) in dichloromethane (73.2 ml). The reaction mixture was stirred at room temperature overnight, diluted with dichloromethane, and washed sequentially with a dilute solution of HCl (<5%, pH 3.0), a solution of saturated sodium bicarbonate, and brine. The combined organic layers were dried over MgSO4 and concentrated to obtain a yellow oil. This substance was subjected to silica gel chromatography, eluted with a solution that was 5:1 hexanes:ethyl acetate, and resulted in a yield of 2.31 g of N-Boc-D-Phe-OBn.

reactant | Dimethylaminopropylethylcarbodiimide | 8.78mmol | CN(C)CCCN=C=NCC | C8H17N3
reactant | N-Boc-D-Phe | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | benzyl alcohol | 11.0 mmol, 1.14 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-pyrrollidinopyridine | 1.46 mmol, 217 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | dichloromethane | 73.2 ml | ClCCl | CH2Cl2
product | N-Boc-D-Phe-OBn | yield of 2.31 g | N([C@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C21H25NO4
